US04148914
Following the procedure of Example 1b, using cis-N-[2-(3-acetyloxy-1-pyrrolidinyl)cyclohexyl]amine and 3,5-dimethylbenzoyl chloride there is obtained as product cis-N-[2-(3-acetyloxy-1-pyrrolidinyl)cyclohexyl]-3,5-dimethylbenzamide.

reactant | cis-N-[2-(3-acetyloxy-1-pyrrolidinyl)cyclohexyl]amine | C(C)(=O)OC1CN(CC1)[C@@H]1[C@@H](CCCC1)N | C12H22N2O2
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | cis-N-[2-(3-acetyloxy-1-pyrrolidinyl)cyclohexyl]-3,5-dimethylbenzamide | C(C)(=O)OC1CN(CC1)[C@@H]1[C@@H](CCCC1)NC(C1=CC(=CC(=C1)C)C)=O | C21H30N2O3
